US08669271B2
4-[5-(4-Ethanesulfonyl-phenyl)-2,3-dihydro-furo[2,3-c]pyridin-2-yl]-piperidine-1-carboxylic acid tert-butyl ester
The title compound is prepared from 4-(5-chloro-2,3-dihydro-furo[2,3-c]pyridin-2-yl)-piperidine-1-carboxylic acid tert-butyl ester and 4-(ethylsulfonyl)phenylboronic acid following a procedure analogous to that described in Example 28. LC (method 7): tR=1.39 min; Mass spectrum (ESI+): m/z=473 [M+H]+.

reactant | 4-(5-chloro-2,3-dihydro-furo[2,3-c]pyridin-2-yl)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C1CC=2C(=CN=C(C2)Cl)O1 | C17H23ClN2O3
reactant | 4-(ethylsulfonyl)phenylboronic acid | C(C)S(=O)(=O)C1=CC=C(C=C1)B(O)O | C8H11BO4S
product | 4-[5-(4-Ethanesulfonyl-phenyl)-2,3-dihydro-furo[2,3-c]pyridin-2-yl]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C1CC=2C(=CN=C(C2)C2=CC=C(C=C2)S(=O)(=O)CC)O1 | C25H32N2O5S
